US04956382
6-Methanesulphonamido-2-methylquinoline
Methanesulphonyl chloride (6.2 ml) was added dropwise to a stirred solution of 6-amino-2-methylquinoline (12.5 g) in pyridine (100 ml) cooled to 5°. Stirring was continued for 17 hours at room temperature. The pyridine was then removed by evaporation in vacuo, the residue diluted with aqueous sodium bicarbonate, and extracted three times with methylene chloride. The combined organic extracts were combined, dried (MgSO4) and evaporated in vacuo to give the title compound, yield 13.0 g, m.p. 151°-153°.

reactant | Methanesulphonyl chloride | 6.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-amino-2-methylquinoline | 12.5 g | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-Methanesulphonamido-2-methylquinoline | CS(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)C | C11H12N2O2S
